US05358955
3-Cyclohexyl-2-[4-(pyrid-2-yl-methoxy)phenyl]propionic acid N-hydroxy-N-methyl-amide
The desired material was prepared according to the procedures described in Example 5 substituting 3-cyclohexyl-2-[4-(pyrid-2-yl-methoxy)phenyl]propionic acid for {[1-(3-[2-naphthylmethoxyl]phenyl)-4-phenylbutyl]oximino}acetic acid. 1H NMR (DMSO-d6, 300 MHz) δ 0.85 (m, 2H), 1.1 (m, 4H), 1.43 (m, 1H), 1.6 (m, 5H), 1.8 (m, 1H), 3.04 (s, 3H), 4.25 (m, 1H), 5.24 (s, 2H), 6.93 (d, J=7Hz, 2H), 7.2 (d, J=7Hz, 2H), 7.33 (m, 1H), 7.5 (d, J=7Hz, 1H), 7.82 (dt, J=7Hz, 2Hz, 1H), 8.58 (m, 1H), 9.8 (bs, 1H). IR (CDCl3): 3620, 3440, 1610 with shoulder 1660 cm-1. MS (DCI/NH3) m/e 369 (M+H)+.

reactant | 3-cyclohexyl-2-[4-(pyrid-2-yl-methoxy)phenyl]propionic acid | C1(CCCCC1)CC(C(=O)O)C1=CC=C(C=C1)OCC1=NC=CC=C1 | C21H25NO3
reactant | {[1-(3-[2-naphthylmethoxyl]phenyl)-4-phenylbutyl]oximino}acetic acid | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CCCC1=CC=CC=C1)ON=CC(=O)O | C29H27NO4
reactant | NH3 | N | H3N
product | 3-Cyclohexyl-2-[4-(pyrid-2-yl-methoxy)phenyl]propionic acid N-hydroxy-N-methyl-amide | ON(C(C(CC1CCCCC1)C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)C | C22H28N2O3
